US09210927B2
Preparation of (E)-Ethyl 4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-enyl)-2-methylbenzoate (AI24)
To a stirred solution of ethyl 2-methyl-4-vinylbenzoate (2.0 g, 10.5 mmol) in 1,2-dichlorobenzene (25 mL) were added 1-(1-bromo-2,2,2-trifluoroethyl)-3,5-dichlorobenzene (6.44 g, 21.0 mmol), copper(I) chloride (CuCl; 208 mg, 21 mmol) and 2,2bipyridyl (0.65 g, 4.1 mmol). The reaction mixture was degassed with argon for 30 min and then stirred at 180° C. for 24 h. After the reaction was deemed complete by TLC, the reaction mixture was cooled to 25° C. and filtered, and the filtrate was concentrated under reduced pressure. Purification by flash chromatography (SiO2, 100-200 mesh; eluting with 25-30% EtOAc in petroleum ether) afforded the title compound as a solid (1.7 g, 40%): 1H NMR (400 MHz, CDCl3) δ 7.91 (d, J=8.0 Hz, 1H), 7.37 (m, 1H), 7.27-7.24 (m, 4H), 6.59 (d, J=16.0 Hz, 1H), 6.59 (dd, J=16.0, 8.0 Hz, 1H), 4.38 (q, J=7.2 Hz, 2H), 4.08 (m, 1H), 2.62 (s, 3H), 1.42 (t, J=7.2 Hz, 3H); ESIMS m/z 415.06 ([M−H]−); IR (thin film) 1717, 1255, 1114 cm−1.

reactant | ethyl 2-methyl-4-vinylbenzoate | 10.5 mmol, 2.0 g | CC1=C(C(=O)OCC)C=CC(=C1)C=C | C12H14O2
reactant | 1-(1-bromo-2,2,2-trifluoroethyl)-3,5-dichlorobenzene | 21.0 mmol, 6.44 g | BrC(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C8H4BrCl2F3
reactant | 2,2bipyridyl | 4.1 mmol, 0.65 g | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
solvent | 1,2-dichlorobenzene | 25 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | copper(I) chloride | 21 mmol, 208 mg | [Cu]Cl
product | (E)-Ethyl 4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-enyl)-2-methylbenzoate | 1.7 g, 40% | ClC=1C=C(C=C(C1)Cl)C(/C=C/C1=CC(=C(C(=O)OCC)C=C1)C)C(F)(F)F | C20H17Cl2F3O2
